US08357635B2
A round bottom flask equipped with magnetic stirrer and nitrogen inlet was charged with 2,4-dichlorobenzaldehyde (1.75 g, 10.0 mmol), acetone (44.1 ml, 0.60 mol) and water (20 ml). The mixture was cooled to 0° C. and a solution of sodium hydroxide (0.44 g, 11.0 mmol) in water (20 ml) was added drop wise during 1 hour to the vigorous stirred suspension. The reaction mixture was stirred for an additional 1.0 hour. The reaction mixture was concentrated in vacuo, poured onto 10% HCl (100 ml) and extracted with ethyl acetate (3×50 ml). Combined organic layers were dried over anhydrous sodium sulfate. The solvent was removed in vacuo and the residue was purified by flash chromatography over silica gel (350 g) (eluent: n-hexane/ethyl acetate 1:1) to afford 1.9 g (88% of theory) of (E)-4-(2,4-dichloro-phenyl)-but-3-en-2-one in form of a pale yellow oil.

reactant | 2,4-dichlorobenzaldehyde | 10.0 mmol, 1.75 g | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
reactant | acetone | 0.60 mol, 44.1 ml | CC(=O)C | C3H6O
reactant | sodium hydroxide | 11.0 mmol, 0.44 g | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | (E)-4-(2,4-dichloro-phenyl)-but-3-en-2-one | 1.9 g, 88% | ClC1=C(C=CC(=C1)Cl)/C=C/C(C)=O | C10H8Cl2O
